US05877317
A mixture of 2,2-dimethyl-3-hydroxypropionic acid (CXXXII, 11.54 g, 97.7 mmol), methanol (150 ml) and methanol (25 ml) saturated with hydrochloric acid gas is stirred overnight at 20°-25°. The mixture is then concentrated under reduced pressure, ether is added, and again the mixture is concentrated. The residue is dissolved in ether and poured cautiously into a small amount of saturated sodium bicarbonate. The phases are separated and the aqueous phase is washed several times with ether. The combined organic phases are backwashed with saline, dried over magnesium sulfate, and concentrated under reduced pressure to give methyl 2,2-dimethyl-3-hydroxypropionate (CXXXII), NMR (CDCl3) 1.20, 2.48, 3.56 and 3.71 δ.

reactant | 2,2-dimethyl-3-hydroxypropionic acid | 97.7 mmol, 11.54 g | CC(C(=O)O)(CO)C | C5H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 25 ml | CO | CH4O
reactant | methanol | 150 ml | CO | CH4O
product | methyl 2,2-dimethyl-3-hydroxypropionate | CC(C(=O)OC)(CO)C | C6H12O3
